US09278953B2
To a flask was added (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpyrrolidin-2-one (534 mg, 1.59 mmol), sodium n-propanethiolate (1287 mg, 13.11 mmol), and DMF (9.5 mL). The mixture was stirred for 17 h at 110° C. Due to incomplete reaction, additional sodium n-propanethiolate (667 mg) was added. The reaction was stirred for 30 h at 110° C. The mixture was diluted with EtOH, concentrated and partitioned between 15% EtOH/DCM and pH 7 phosphate buffer. The aqueous phase was extracted 2× and the combined organic layers were dried over Na2SO4 to provide a crude product. Purification by slurrying at r.t. overnight (3.3 mL EtOAc/0.33 mL EtOH) followed by filtration, wash with EtOAc several times and dried under reduced pressure for 3 days at 60-80° C. provided (R)-6-(1-methyl-1H-indol-5-yl)-3-(3-methyl-2-oxopyrrolidin-3-yl)pyridin-2(1H)-one (495 mg, 97%) as a yellow solid. 1H NMR (600 MHz, methanol-d4) δ: 1.54 (s, 3H), 1.91-1.98 (m, 1H), 2.68-2.79 (m, 1H), 3.48 (dd, 2H), 3.85 (s, 3H), 6.55 (d, 1H), 6.62 (d, 1H), 7.26 (d, 1H), 7.47 (dd, 1H), 7.49-7.51 (m, 1H), 7.63 (d, 1H), 7.89 (d, 1H); MS (ES+)(M+H) 322.

reactant | (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpyrrolidin-2-one | 1.59 mmol, 534 mg | COC1=NC(=CC=C1[C@@]1(C(NCC1)=O)C)C=1C=C2C=CN(C2=CC1)C | C20H21N3O2
reactant | sodium n-propanethiolate | 13.11 mmol, 1287 mg | C(CC)[S-].[Na+]
reactant | DMF | 9.5 mL | CN(C)C=O | C3H7NO
reactant | sodium n-propanethiolate | 667 mg | C(CC)[S-].[Na+]
solvent | EtOH | CCO | C2H6O
product | (R)-6-(1-methyl-1H-indol-5-yl)-3-(3-methyl-2-oxopyrrolidin-3-yl)pyridin-2(1H)-one | 495 mg, 97% | CN1C=CC2=CC(=CC=C12)C1=CC=C(C(N1)=O)[C@@]1(C(NCC1)=O)C | C19H19N3O2
